US07919519B2
Iodine (3.21 g, 12.6 mmol) was added to a solution of 6-benzylpyridin-3-ol (2.34 g, 12.6 mmol) and sodium carbonate anhydrous (1.06 mL, 25.3 mmol) in water (60 mL) and THF (60 mL). The mixture was allowed to stir for 1 h at room temperature, treated with sodium thiosulfate, and acidified pH 3 using 5M aqueous HCl. Extractive workup and flash chromatography using EtOAc/hexanes gave 6-benzyl-2-iodopyridin-3-ol. 1H NMR (300 MHz, DMSO-d6) δ ppm 10.62 (s, 1H), 7.13-7.34 (m, 5H), 6.99-7.11 (m, 2H), 3.95 (s, 2H). MS (ESI) m/z: Calculated; 311.0 Observed: 311.9 (M++1).

reactant | Iodine | 12.6 mmol, 3.21 g | II | I2
reactant | 6-benzylpyridin-3-ol | 12.6 mmol, 2.34 g | C(C1=CC=CC=C1)C1=CC=C(C=N1)O | C12H11NO
reactant | sodium carbonate anhydrous | 25.3 mmol, 1.06 mL | C(=O)(O)O | CH2O3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 5M | Cl | ClH
solvent | water | 60 mL | O | H2O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-benzyl-2-iodopyridin-3-ol | C(C1=CC=CC=C1)C1=CC=C(C(=N1)I)O | C12H10INO
